US04855286
Iva-Phe-His-1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(2-pyridyl)propylamide
380 mg of Iva-Phe-His(DNP)-1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(2-pyridyl)propylamide are reacted with thiophenol to give the title compound in analogy to reference example 1(a).

reactant | Iva-Phe-His(DNP) 1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(2-pyridyl)propylamide | 380 mg | N[C@@](C)(CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O.C1(CCCCC1)C[C@@H](C(CC1=NC=CC=C1)O)[NH-]
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | Iva-Phe-His 1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(2-pyridyl)propylamide | N[C@@](C)(CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O.C1(CCCCC1)C[C@@H](C(CC1=NC=CC=C1)O)[NH-] | InChI=1S/C20H27N5O4.C15H23N2O/c1-3-20(2,21)19(29)25-15(9-13-7-5-4-6-8-13)17(26)24-16(18(27)28)10-14-11-22-12-23-14;16-14(10-12-6-2-1-3-7-12)15(18)11-13-8-4-5-9-17-13/h4-8,11-12,15-16H,3,9-10,21H2,1-2H3,(H,22,23)(H,24,26)(H,25,29)(H,27,28);4-5,8-9,12,14-16,18H,1-3,6-7,10-11H2/q;-1/t15-,16-,20-;14-,15?/m00/s1
